US05128335
Tetrakis-(triphenylphosphine)palladium (153 mG; 0.135 mM) was added to a stirred solution of 3-bromopyridine (0.434 mL; 4.5 mM) in 9 mL of toluene. The resulting solution was stirred 10 mins. under nitrogen at R.T. 2M aqueous sodium carbonate solution (5 mL; 10 mM) followed by a solution of 3-bromophenylboronic acid (1 G; 5 mM) in 2.5 mL of absolute ethanol were added. This heterogeneous reaction mixture was vigorously stirred 20 hrs. at 80° under nitrogen, cooled, diluted with 25 mL of methylene chloride, and washed with 2×5 mL of 2M aqueous sodium carbonate solution containing 0.5 mL of conc. ammonia. The organic layer was dried over anhyd. magnesium sulfate. Solvent removal followed by purification on silica gel using ether:petroleum ether (1:1) as solvent gave 3-(3'-bromophenyl)pyridine in 35% yield as a colorless liquid boiling at 140°-2°/~2 mm.

reactant | 3-bromopyridine | 4.5 mM, 0.434 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | sodium carbonate | 2M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromophenylboronic acid | 5 mM | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(3'-bromophenyl)pyridine | 35% yield | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
